US04897490
3,3-Bis(4-fluorophenyl)-2-(1-ethyl-1H-tetrazol-5-yl)-2-propenol
To a solution of ethyl 3,3-bis(4-fluorophenyl)-2-(1-ethyl-1H-tetrazol-5-yl)-2-propenoate (1.0 g, 2.6 mmoles) at -78° in CH2Cl2 was rapidly added 7.8 mL (7.8 mmoles) of diisobutylaluminum hydride solution (1.0 Molar in methylene chloride). After stirring for 45 minutes, the mixture was quenched with 1N HCl solution. The organic layer was separated, dried (MgSO4) and concentrated in vacuo. The residual oil was triturated with hexane to give 0.9 g (100%) of the title compound; m.p.=103°-111° C.

reactant | ethyl 3,3-bis(4-fluorophenyl)-2-(1-ethyl-1H-tetrazol-5-yl)-2-propenoate | 2.6 mmoles, 1.0 g | FC1=CC=C(C=C1)C(=C(C(=O)OCC)C1=NN=NN1CC)C1=CC=C(C=C1)F | C20H18F2N4O2
reactant | diisobutylaluminum hydride | 7.8 mmoles, 1.0 Molar, 7.8 mL | [H-].C(C(C)C)[Al+]CC(C)C
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3,3-Bis(4-fluorophenyl)-2-(1-ethyl-1H-tetrazol-5-yl)-2-propenol | 0.9 g, 100% | FC1=CC=C(C=C1)C(=C(CO)C1=NN=NN1CC)C1=CC=C(C=C1)F | C18H16F2N4O
